US07820707B2
b) 2-(2-(4-(2-(Methylamino)ethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
The 2-(1-(2-(3-carbamoyl-4,5,6,7-tetrahydrobenzo[b]thiophen-2-ylamino)-2-oxoethyl)-3-(trifluoromethyl)1H-pyrazol-4-yl)ethyl methanesulfonate (30 mg, 0.061 mmol) was dissolved in DMF (1 mL) and methylamine (2 M in THF, 1 mL, 2 mmol) added. The reaction mixture was heated at 120° C. for 5 min in the microwave. The THF was removed in vacuo and the reaction mixture filtered and purified by preparative reverse phase HPLC to give the formic acid salt of the desired product (3.6 mg, 0.008 mmol, 12%).

reactant | 2-(1-(2-(3-carbamoyl-4,5,6,7-tetrahydrobenzo[b]thiophen-2-ylamino)-2-oxoethyl)-3-(trifluoromethyl)1H-pyrazol-4-yl)ethyl methanesulfonate | 0.061 mmol, 30 mg | CS(=O)(=O)OCCC=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(N)=O)C(F)(F)F | C18H21F3N4O5S2
reactant | methylamine | 2 mmol, 2 M, 1 mL | CN | CH5N
reactant | formic acid | C(=O)O | CH2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2-(4-(2-(Methylamino)ethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.008 mmol, 3.6 mg, 12% | CNCCC=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C18H22F3N5O2S
